US20010016657A1
Methyl 3-Chloro-4-iso-propoxybenzoate
Methyl 3-chloro-4-hydroxybenzoate (5 g, 26.8 mmol) in DMF (45 ml) was treated with potassium carbonate (7.41 g, 53.6 mmol), 2-iodopropane (3.85 ml, 40.2 mmol) and then stirfed at 25°0 C. for 18 h. Work-up with ethyl acetate gave the title compound (6.1 g).

reactant | Methyl 3-chloro-4-hydroxybenzoate | 26.8 mmol, 5 g | ClC=1C=C(C(=O)OC)C=CC1O | C8H7ClO3
reactant | potassium carbonate | 53.6 mmol, 7.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 40.2 mmol, 3.85 ml | IC(C)C | C3H7I
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 45 ml | CN(C)C=O | C3H7NO
product | Methyl 3-Chloro-4-iso-propoxybenzoate | 6.1 g | ClC=1C=C(C(=O)OC)C=CC1OC(C)C | C11H13ClO3
